US05552397
a) (S)-N-(2-Phthalimido-1-oxohexyl)glycine, ethyl ester
A slurry of glycine, ethyl ester, hydrochloride salt (2.718 g, 19.5 mmol.) in dimethylformamide (36 ml.) was treated with 4-methyl morpholine (2.60 ml., 2.39 g., 23.6 mmol.) and stirred at room temperature for 5 minutes. The mixture was then treated with (S)-2-phthalimido-6-hydroxyhexanoic acid (4.50 g., 16.2 mmol.) and hydroxybenzotriazole (2.225 g., 16.5 mmol.), cooled to 0° C., and then treated with ethyl-3-(3-dimethylamino)propyl carbodiimide, hydrochloride salt (3.438 g., 17.9 mmol.). After stirring at 0° C. for 1 hour and at room temperature for 2 hours, the mixture was partitioned between ethyl acetate and 0.5N hydrochloric acid and subsequently extracted three times with ethyl acetate. The pooled ethyl acetate extracts were washed in succession with water, saturated sodium bicarbonate, and brine, then dried (sodium sulfate), filtered and stripped to give 5.77 g. of title product as a colorless oil. TLC (ethyl acetate) Rf =0.34.

reactant | glycine, ethyl ester, hydrochloride salt | 19.5 mmol, 2.718 g | Cl.NCC(=O)OCC
reactant | 4-methyl morpholine | 23.6 mmol, 2.60 ml, 2.39 g | CN1CCOCC1 | C5H11NO
reactant | (S)-2-phthalimido-6-hydroxyhexanoic acid | 16.2 mmol, 4.50 g | C1(C=2C(C(N1[C@H](C(=O)O)CCCCO)=O)=CC=CC2)=O | C14H15NO5
reactant | hydroxybenzotriazole | 16.5 mmol, 2.225 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
solvent | dimethylformamide | 36 ml | CN(C=O)C | C3H7NO
product | (S)-N-(2-Phthalimido-1-oxohexyl)glycine, ethyl ester | C1(C=2C(C(N1[C@H](C(=O)NCC(=O)OCC)CCCC)=O)=CC=CC2)=O | C18H22N2O5
